US05585385
Employing 3,4-pyridinecarboxylic anhydride (10.0 g) and 4-methylphenyl magnesium bromide, substantially the same reaction and process as in Reference Example 2 Step 1 were conducted to give 4-(4-methylbenzoyl)-3-pyridinecarboxylic acid as colorless crystals.

reactant | 3,4-pyridinecarboxylic anhydride | 10.0 g | C1=CN=CC2=C1C(=O)OC2=O | C7H3NO3
reactant | 4-methylphenyl magnesium bromide | CC1=CC=C(C=C1)[Mg]Br
product | 4-(4-methylbenzoyl)-3-pyridinecarboxylic acid | CC1=CC=C(C(=O)C2=C(C=NC=C2)C(=O)O)C=C1 | C14H11NO3
